US04367234
By the method of Preparation 1, 2-fluoronaphthalene (10 g., 0.068 mole) in 200 ml. of methylene chloride was reacted with titanium tetrachloride (25.5 g., 14.7 ml. 0.136 mole) and 1,1-dichloromethyl methyl ether (10.1 g., 0.088 mole). The resulting crude product (11 g.) was first recrystallized from hexane to yield 7-fluoro-1-naphthaldehyde [2.5 g., m.p. 95°-96° C., Rf 0.25 (1:1 chloroform:hexane)]. The mother liquor was evaporated to dryness and the residue chromatographed on 400 g. of silica gel, eluting initially with 3:1 hexane:chloroform and then with 3:2 hexane:chloroform. The column was monitored by tlc. Fractions contain clean 2-fluoro-1-naphthaldehyde [Rf 0.31 (3:2 hexane:chloroform)] were combined and evaporated to dryness, yielding purified 2-fluoro-1-naphthaldehyde (2.8 g., m.p. 60°-62° C.).

reactant | 2-fluoronaphthalene | 0.068 mole, 10 g | FC1=CC2=CC=CC=C2C=C1 | C10H7F
reactant | 1,1-dichloromethyl methyl ether | 0.088 mole, 10.1 g | COC(Cl)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | 0.136 mole, 14.7 ml, 25.5 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-fluoro-1-naphthaldehyde | 2.5 g | FC1=CC=C2C=CC=C(C2=C1)C=O | C11H7FO
